US07723331B2
g) 2-(4-Chlorophenyl)-6-({6-[(1-methylpiperidin-4-yl)oxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one
To a solution of 2-(4-chlorophenyl)-6-{[6-(piperidin-4-yloxy)pyridin-2-yl]methyl}thieno[2,3-d]pyridazin-7(6H)-one (0.16 g, 0.34 mmol) in DCM/MeOH (1:1, 10 mL) was added (polystyrylmethyl)trimethylammonium cyanoborohydride (0.25 g, 1.03 mmol), 36% aq. formaldehyde (0.05 mL, 0.69 mmol) and acetic acid (one drop). After 3 hours of stirring one additional amount of (polystyrylmethyl)trimethylammonium cyanoborohydride, formaldehyde and acetic acid added to the reaction mixture and stirred for two hours. The reaction mixture was filtrated, concentrated in vacuo and purified by flash chromatography using a gradient with EtOAc:MeOH:TEA (1:0.1:0.05) in n-heptane, which gave the product. Yield: 0.084 g (52%). 1H NMR (400 MHz, CDCl3) δ 8.19 (s, 1H), 7.57-7.64 (m, 2H), 7.30-7.49 (m, 4H), 6.71 (d, 1H, J=7.31 Hz), 6.52 (d, 1H, J=8.16 Hz), 5.47 (s, 2H), 4.69-4.79 (m, 1H), 2.49-2.58 (m, 2H), 2.13 (s, 3H), 1.87-1.99 (m, 2H), 1.75-1.84 (m, 2H), 1.58-1.69 (m, 2H). 13C NMR (100 MHz, CDCl3) δ 163.0, 157.4, 153.5, 152.3, 140.3, 139.3, 136.4, 136.0, 133.1, 131.3, 129.8, 128.1, 113.8, 110.1, 70.5, 55.6, 53.3, 46.4, 31.0 MS (ESI+) 467.08 (M+1H+).

reactant | 2-(4-chlorophenyl)-6-{[6-(piperidin-4-yloxy)pyridin-2-yl]methyl}thieno[2,3-d]pyridazin-7(6H)-one | 0.34 mmol, 0.16 g | ClC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=NC(=CC=C2)OC2CCNCC2)=O)S1 | C23H21ClN4O2S
reactant | formaldehyde | 0.69 mmol, 0.05 mL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DCM MeOH | 10 mL | C(Cl)Cl.CO
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | 2-(4-Chlorophenyl)-6-({6-[(1-methylpiperidin-4-yl)oxy]pyridin-2-yl}methyl)thieno[2,3-d]pyridazin-7(6H)-one | ClC1=CC=C(C=C1)C1=CC2=C(C(N(N=C2)CC2=NC(=CC=C2)OC2CCN(CC2)C)=O)S1 | C24H23ClN4O2S
